US06090815
Synthesis of 2-(5-chloro-6-ethylpyri midi n-4-yloxy)acetic acid (Intermediate Compound No. 2)
Ethyl 2-(5-chloro-6-ethylpyrimidin-4-yloxy)acetate (2.6 g) was dissolved in ethanol (50 ml). A solution containing sodium hydroxide (0.7 g) dissolved in water (10 ml) was added thereto in a dropwise manner, and subsequently the mixture was stirred for an hour at room temperature. After completion of the reaction, water was added to the reaction liquid. Subsequently, the reaction liquid was acidified using citric acid. The organic layer was extracted with ethyl acetate and then was dried over anhydrous magnesium sulfate. The ethyl acetate was removed under reduced pressure. The obtained crystals were washed with hexane to give 1.4 g of the desired product having a melting point of 158° C. to 159° C.

reactant | Ethyl 2-(5-chloro-6-ethylpyrimidin-4-yloxy)acetate | 2.6 g | ClC=1C(=NC=NC1CC)OCC(=O)OCC | C10H13ClN2O3
reactant | sodium hydroxide | 0.7 g | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(5-chloro-6-ethylpyri midi n-4-yloxy)acetic acid | 1.4 g | ClC=1C(=NC=NC1CC)OCC(=O)O | C8H9ClN2O3
